US06127374
A suspension of crude 4-chloro-6-nitroquinazoline hydrochloride (5 mmol) (Morley J. S. and Simpson J. C. E., J. Chem. Soc., 1948:360) was refluxed under nitrogen with stirring in isopropanol (10 mL) containing 4-phenoxyaniline (926 mg, 5 mmol) and N,N-dimethylaniline (1.215 g, 10 mmol) for 3 hours. The mixture was allowed to cool to 25° C., and the precipitate was collected by Buchner filtration, rinsed with isopropanol (2×10 mL) and dried at 60° C. in a vacuum oven to give 6-amino-4-(4-phenoxyanilino)quinazoline hydrochloride (1.702 g, 86%) as an orange solid; mp 293-294° C.

reactant | 4-chloro-6-nitroquinazoline hydrochloride | 5 mmol | Cl.ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-]
reactant | 4-phenoxyaniline | 5 mmol, 926 mg | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | N,N-dimethylaniline | 10 mmol, 1.215 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 6-amino-4-(4-phenoxyanilino)quinazoline hydrochloride | 1.702 g, 86% | Cl.NC=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | InChI=1S/C20H16N4O.ClH/c21-14-6-11-19-18(12-14)20(23-13-22-19)24-15-7-9-17(10-8-15)25-16-4-2-1-3-5-16;/h1-13H,21H2,(H,22,23,24);1H
